US07932252B2
N-(2-Bromo-4-methyl-phenyl)-4-tert-butyl-benzenesulfonamide
2-Bromo-4-chloro-phenylamine (2.06 g, 10 mmol) and 4-tert-butylbenzenesulfonyl chloride (2.55 g, 11 mmol) were suspended in anhydrous pyridine (10 mL) and heated at 60° C. for 4 h. After cooling to room temperature the reaction mixture was added to 6 M HCl (100 mL) and the product was extracted with ethyl acetate (3×50 mL). The combined organic extract was dried over MgSO4, the solvent was evaporated, and the crude product was purified by flash chromatography to afford the title compound as a white solid. MS: (M+H)/z=403.

reactant | 2-Bromo-4-chloro-phenylamine | 10 mmol, 2.06 g | BrC1=C(C=CC(=C1)Cl)N | C6H5BrClN
reactant | 4-tert-butylbenzenesulfonyl chloride | 11 mmol, 2.55 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | HCl | 6 M, 100 mL | Cl | ClH
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Bromo-4-methyl-phenyl)-4-tert-butyl-benzenesulfonamide | BrC1=C(C=CC(=C1)C)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C17H20BrNO2S
